US07741318B2
(prepared in an analogous procedure to that outlined in WO 2004/026229 A2) Step A: 5-Methyl-2H-pyrazol-3-ylamine (2 g, 0.0206 mol) was dissolved in EtOH (60 ml) and NaOEt (11.58 ml of a 21% by wt. solution, 2 eq) was added, followed by diethyl malonate (3.44 ml, 1.1 eq). The mixture was heated at reflux for 3 h. After cooling to rt, the precipitate was collected by filtration, washed with additional EtOH, and dried to give 1.6 g of 2-methyl-4H-pyrazolo[1,5-a]pyrimidine-5,7-dione. Step B: The compound from step A (1.6 g) was dissolved in POCl3 (18 ml) and cooled to 0° C., N,N-dimethylaniline (3.43 ml) was added and the mixture heated at 115-120° C. overnight. After cooling to rt, the POCl3 was removed under reduced pressure, the resulting residue was taken up in CH2Cl2, and poured onto ice. Once the ice melted the mixture was neutralized with NaHCO3 (s) and the organic layer separated. The organic layer was washed with water, dried (MgSO4), concentrated under reduced pressure, and the resulting residue purified by flash chromatography (SiO2, hexane-CH2Cl2) to give 0.734 g of 5,7-dichloro-2-methylpyrazolo[1,5-a]pyrimidine. 1H NMR (CDCl3) δ 6.89 (s, 1H), 6.52 (s, 1H), 2.55 (s, 3H).

reactant | 5-Methyl-2H-pyrazol-3-ylamine | 0.0206 mol, 2 g | CC=1C=C(NN1)N | C4H7N3
reactant | NaOEt | CC[O-].[Na+]
reactant | diethyl malonate | 3.44 ml, 1.1 eq | C(CC(=O)OCC)(=O)OCC | C7H12O4
solvent | EtOH | 60 ml | CCO | C2H6O
product | 2-methyl-4H-pyrazolo[1,5-a]pyrimidine-5,7-dione | 1.6 g | CC1=NN2C(NC(CC2=O)=O)=C1 | C7H7N3O2
